US04004007
A solution of 32.0 g (0.33 mole) of cyclohexanone, 70.0 g (0.66 mole) of benzaldehyde, 200 ml of ethanol and 20 ml of concentrated HCl is heated and then refluxed for one hour. Crystallization from the deep red solution occurs and after cooling the crystallized 2,6-bis(phenylmethylene)cyclohexanone is filtered and washed with cold ethanol and dried yielding 72.0 g; m.p. 114°-116° . This material is recrystallized from 120 ml of DMF (dimethylformamide) yielding 56.0 g (63%) of yellow 2,6-bis(phenylmethylene)cyclohexanone; m.p. 114°-116° .

reactant | cyclohexanone | 0.33 mole, 32.0 g | C1(CCCCC1)=O | C6H10O
reactant | benzaldehyde | 0.66 mole, 70.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 20 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,6-bis(phenylmethylene)cyclohexanone | 56.0 g, 63% | C1(=CC=CC=C1)C=C1C(C(CCC1)=CC1=CC=CC=C1)=O | C20H18O
